US05059597
b) tert.-Butyl N-(trans-1-benzyl-4-methoxypyrrolidin-3-yl)carbamate
8.2 g (30 mmol) of trans-3-amino-1-benzyl-4-methoxypyrrolidine and 21 ml of tert.-butanol are added to a solution of 1.3 g of NaOH in 15 ml of water. 7.1 g (31 mmol) of di-tert.-butyl dicarbonate are added dropwise and the mixture is then stirred at room temperature overnight. Inorganic salts are filtered off with suction, the filtrate is extracted with chloroform, the extract is dried over potassium carbonate and concentrated and the residue is distilled.

reactant | trans-3-amino-1-benzyl-4-methoxypyrrolidine | 30 mmol, 8.2 g | N[C@@H]1CN(C[C@H]1OC)CC1=CC=CC=C1 | C12H18N2O
reactant | tert.-butanol | 21 ml | C(C)(C)(C)O | C4H10O
reactant | NaOH | 1.3 g | [OH-].[Na+]
reactant | di-tert.-butyl dicarbonate | 31 mmol, 7.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 ml | O | H2O
product | tert.-Butyl N-(trans-1-benzyl-4-methoxypyrrolidin-3-yl)carbamate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)OC)NC(OC(C)(C)C)=O | C17H26N2O3
